US07238808B2
4-[5-(3,4-Dichloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide
The title compound was prepared from 5-(3,4-dichloro-phenyl)-3-ethynyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine (example C.9) (89 mg, 0.25 mmol) and 4-bromo-benzenesulfonamide (59 mg, 0.25 mmol) according to general procedure II. Obtained as a yellow solid (43 mg, 33%). MS (ISN) 509.0 [(M−H)−]; mp 273–274° C.

reactant | 5-(3,4-dichloro-phenyl)-3-ethynyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 0.25 mmol, 89 mg | ClC=1C=C(C=CC1Cl)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#C | C15H6Cl2F3N3
reactant | 4-bromo-benzenesulfonamide | 0.25 mmol, 59 mg | BrC1=CC=C(C=C1)S(=O)(=O)N | C6H6BrNO2S
product | 4-[5-(3,4-Dichloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide | ClC=1C=C(C=CC1Cl)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#CC2=CC=C(C=C2)S(=O)(=O)N | C21H11Cl2F3N4O2S
